US05440044
A solution of 15.1 g of 2,6-dibromopyridine in 500 ml of triethylamine is mixed under ice cooling with 10.2 g of 3-ethinylbenzoic acid methyl ester, 1.1 g of bis-(triphenylphosphine)-palladium(II) chloride ad 150 mg of copper(I) iodide and the mixture is stirred for 1 hour. Then, the ice bath is removed and it is stirred for 48 hours at room temperature. The precipitate is filtered off, the filtrate is evaporated to dryness, mixed with water and shaken out with ethyl acetate. The organic phase is dried on sodium sulfate, concentrated by evaporation and the residue is chromatographed on silica gel with hexane/0-12% ethyl acetate. 4.8 g of 2-bromo-6[2-(3-methoxycarbonylphenyl)-ethinyl]-pyridine of melting point 124°-126° C. is obtained.

reactant | 2,6-dibromopyridine | 15.1 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 3-ethinylbenzoic acid methyl ester | 10.2 g | COC(C1=CC(=CC=C1)C#C)=O | C10H8O2
solvent | triethylamine | 500 ml | C(C)N(CC)CC | C6H15N
catalyst | bis-(triphenylphosphine)-palladium(II) chloride | 1.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 150 mg | [Cu]I
product | 2-bromo-6[2-(3-methoxycarbonylphenyl)-ethinyl]-pyridine | 4.8 g | BrC1=NC(=CC=C1)C#CC1=CC(=CC=C1)C(=O)OC | C15H10BrNO2
